US07034045B1
Preparation of N-[4-(1-Fluoro-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl][5-(N-methylcarbamoyl)(2-pyridyl)]carboxamide
Into a 50 mL single neck flask, 1 mL oxalyl chloride was added syringe wise to 6-{N-[4-(1-fluoro-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl]carbamoyl}pyridine-3-carboxylic acid. (110 mg, 0.26 mmol, prepared in example 51) in methylene chloride (10 mL) while stirring under nitrogen at room temperature. Immediately, 1 drop of DMF was added by pipette initiating a foaming of the mixture. The reaction was stirred one hour at this temperature and then concentrated under reduced vacuum to yield a white semi-solid. This material was placed into dioxane (10 mL) and added dropwise to a stirring solution of 40% methylamine in water (3 mL, excess) at room temperature and the mixture was stirred overnight. In the morning, the solution was concentrated under reduced vacuum and the resulting oil was taken into methylene chloride and the organic layer was washed once with H2O, dried over K2CO3, filtered, and concentrated under reduced vacuum to yield 78 mg as an oil. This material was purified via silica gel chromatography employing the chromatotron and using a 1000 micron rotor while eluting with a solvent of ethyl acetate to yield the title compound (28 mg, 25%) as a white solid. Ion spray M.S. 435.2 (M*−1) and 417.1 (M*−19 Fluorine).

reactant | oxalyl chloride | 1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-{N-[4-(1-fluoro-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl]carbamoyl}pyridine-3-carboxylic acid | FC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=N1)C(=O)O | C19H22FN3O5S
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | methylamine | CN | CH5N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | water | 3 mL | O | H2O
product | N-[4-(1-Fluoro-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl][5-(N-methylcarbamoyl)(2-pyridyl)]carboxamide | 28 mg, 25% | FC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)NC(=O)C1=NC=C(C=C1)C(NC)=O | C20H25FN4O4S
